US08471057B2
To a clean flask, 34.73 g (R)-methyl 3-(tert-butoxycarbonylamino)-4-(2,4,5-trifluorophenyl)butyrate, 100 ml toluene, 160 ml water and 4.8 g sodium hydroxide were added. The mixture was warmed to 60° C. and kept at this temperature for 3 hours. 4.73 g hydrochloric acid was added dropwisely. After completion, the resulting mixture was kept at 20-30° C. for 2 hours and filtrated to obtain 30.66 g (R)-3-(tert-butoxycarbonylamino)-4-(2,4,5-trifluorophenyl)n-butyric acid (yield: 92%).

reactant | (R)-methyl 3-(tert-butoxycarbonylamino)-4-(2,4,5-trifluorophenyl)butyrate | 34.73 g | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)OC)CC1=C(C=C(C(=C1)F)F)F | C16H20F3NO4
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | 4.8 g | [OH-].[Na+]
reactant | hydrochloric acid | 4.73 g | Cl | ClH
solvent | water | 160 ml | O | H2O
product | (R)-3-(tert-butoxycarbonylamino)-4-(2,4,5-trifluorophenyl)n-butyric acid | 30.66 g, yield: 92% | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)O)CC1=C(C=C(C(=C1)F)F)F | C15H18F3NO4
